US08703758B2
C) 2-(cyclopropylmethoxy)-5-(methoxymethoxy)pyridine
To a suspension of 6-(cyclopropylmethoxy)pyridin-3-ol (855 mg) and potassium carbonate (1.44 g) in DMF (15 mL) was added chloromethyl methyl ether (0.635 mL), and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed twice with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (789 mg) as an oil.

reactant | 6-(cyclopropylmethoxy)pyridin-3-ol | 855 mg | C1(CC1)COC1=CC=C(C=N1)O | C9H11NO2
reactant | potassium carbonate | 1.44 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyl methyl ether | 0.635 mL | COCCl | C2H5ClO
reactant | Water | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-(cyclopropylmethoxy)-5-(methoxymethoxy)pyridine | 789 mg | C1(CC1)COC1=NC=C(C=C1)OCOC | C11H15NO3
